US08236798B2
1.2 (2R)—N-(4-Amino-3,4-dioxo-1-phenylbutan-2-yl)-1-benzyl-5-oxopyrrolidine-2-carboxamide
EDC (1543 mg, 8.05 mmol) and 2,2-dichloroacetic acid (0.446 ml; 696 mg, 5.4 mmol) were added to a solution of (2R)—N-(4-amino-3-hydroxy-4-oxo-1-phenylbutan-2-yl)-1-benzyl-5-oxopyrrolidine-2-carboxamide (400 mg, 1.012 mmol) in 8 ml of dry dimethylsulfoxide (DMSO), resulting in a slight exotheric reaction (40° C.). After stirring overnight at room temperature ethyl acetate and water were added, the formed precipitate filtered off and the remaining organic layer concentrated to dryness under reduced pressure. Precipitate and obtained residue were combined, and after addition of water and stirring at about 5° C. for 30 minutes the formed precipitate was filtered off and dried under reduced pressure. The title compound was obtained as an off-white powder (243 mg, yield: 61%).

reactant | EDC | 8.05 mmol, 1543 mg
reactant | 2,2-dichloroacetic acid | 5.4 mmol, 0.446 ml, 696 mg | ClC(C(=O)O)Cl | C2H2Cl2O2
reactant | (2R)—N-(4-amino-3-hydroxy-4-oxo-1-phenylbutan-2-yl)-1-benzyl-5-oxopyrrolidine-2-carboxamide | 1.012 mmol, 400 mg | NC(C(C(CC1=CC=CC=C1)NC(=O)[C@@H]1N(C(CC1)=O)CC1=CC=CC=C1)O)=O | C22H25N3O4
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylsulfoxide | 8 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | (2R)—N-(4-Amino-3,4-dioxo-1-phenylbutan-2-yl)-1-benzyl-5-oxopyrrolidine-2-carboxamide | NC(C(C(CC1=CC=CC=C1)NC(=O)[C@@H]1N(C(CC1)=O)CC1=CC=CC=C1)=O)=O | C22H23N3O4
